US06593333B1
6-Methoxy-7-[2-(1,2,3-triazol-1-yl)ethoxy]-4-[2-methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]quinazoline
A mixture of 7-hydroxy-6-methoxy-4-[2-methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]quinazoline (184 mg), 2-(1,2,3-triazol-1-yl)ethyl 4-toluenesulphonate (101 mg), cesium carbonate (370 mg) and N,N-dimethylacetamide (4 ml) was stirred and heated to 100° C. for 1 hour. After cooling the reaction mixture to ambient temperature, the reaction mixture was partitioned between water and methylene chloride. The organic phase was dried with brine and sodium sulphate and evaporated. The material so obtained was purified by column chromatography on silica using a 10:1 mixture of methylene chloride and methanol as eluent. There was thus obtained the title compound as a solid (47 mg); NMR: 2.14 (s, 3H), 3.51 (t, 4H), 3.72 (t, 4H), 3.91 (s, 3H), 4.59 (t, 2H), 4.87 (t, 2H), 7.09 (d, 1H), 7.2 (s, 1H), 7.22 (d, 1H), 7.27 (d, 1H), 7.58 (m, 1H), 7.74 (s, 2H), 7.83 (s, 1H), 8.18 (s, 1H), 8.24 (d, 1H), 8.26 (s, 1H), 9.39 (s, 1H), 10.28 (s, 1H); m/s: M+H+ 582.

reactant | 7-hydroxy-6-methoxy-4-[2-methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]quinazoline | 184 mg | OC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C)OC | C26H26N6O4
reactant | 2-(1,2,3-triazol-1-yl)ethyl 4-toluenesulphonate | 101 mg | C1(=CC=C(C=C1)S(=O)(=O)OCCN1N=NC=C1)C | C11H13N3O3S
reactant | cesium carbonate | 370 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylacetamide | 4 ml | CN(C(C)=O)C | C4H9NO
product | 6-Methoxy-7-[2-(1,2,3-triazol-1-yl)ethoxy]-4-[2-methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]quinazoline | 47 mg | COC=1C=C2C(=NC=NC2=CC1OCCN1N=NC=C1)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C | C30H31N9O4
